US08003662B2
Step G: Preparation of 4-(7-(2-fluoro-4-(1-methyl-6-oxo-2-(phenylamino)-1,6-dihydropyrimidin-5-yl)phenoxy)thieno[3,2-b]pyridin-2-yl)-N-methylbenzamide:
A suspension of 5-(3-fluoro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one (0.018 g, 0.032 mmol), 4-(methylcarbamoyl)phenylboronic acid (0.007 g, 0.038 mmol), Pd(PPh3)4 (0.002 g, 0.002 mmol) and LiCl (0.005 g, 0.126 mmol) in dioxane (1 mL) and 2M aqueous Na2CO3 (1 mL) was stirred at 100° C. for 30 minutes. The reaction mixture was cooled to room temperature and then partitioned between EtOAc and H2O. The layers were separated and the aqueous layer was re-extracted with EtOAc (1×). The combined organic layers were dried over Na2SO4, filtered and concentrated. The crude product was purified by flash column chromatography, eluting with 10:1 CH2Cl2/MeOH. The product was obtained (9.5 mg; 52%) as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 9.04 (br s, 1H), 8.60-8.53 (m, 2H), 8.20 (s, 1H), 8.11 (s, 1H), 8.04-7.94 (m, 4H), 7.89 (dd, 1H), 7.69 (m, 1H), 7.57-7.48 (m, 3H), 7.38 (m, 2H), 7.17 (m, 1H), 6.70 (dd, 1H), 3.59 (s, 3H), 2.82 (d, 3H). LRMS (APCI pos) m/e 578 (M+1).

reactant | 5-(3-fluoro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | 0.032 mmol, 0.018 g | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)I)C=2C(N(C(=NC2)NC2=CC=CC=C2)C)=O | C24H16FIN4O2S
reactant | 4-(methylcarbamoyl)phenylboronic acid | 0.038 mmol, 0.007 g | CNC(=O)C1=CC=C(C=C1)B(O)O | C8H10BNO3
reactant | LiCl | 0.126 mmol, 0.005 g | [Li+].[Cl-]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | Na2CO3 | 2M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.002 mmol, 0.002 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(7-(2-fluoro-4-(1-methyl-6-oxo-2-(phenylamino)-1,6-dihydropyrimidin-5-yl)phenoxy)thieno[3,2-b]pyridin-2-yl)-N-methylbenzamide | FC1=C(OC2=C3C(=NC=C2)C=C(S3)C3=CC=C(C(=O)NC)C=C3)C=CC(=C1)C1=CN=C(N(C1=O)C)NC1=CC=CC=C1 | C32H24FN5O3S
